US07067540B2
A solution of methyl 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylate (0.35 g, 1.25 mmol) in 2 N NaOH (5 mL) was heated at reflux for 3.5 h. The reaction mixture was cooled room temperature, acidified to pH 1-2 with 1 N HCl, and washed with EtOAc. The organic solution was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure to afford 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid as a white solid (0.31 g, 94%): 1H NMR (300 MHz, MeOD) δ 4.30-4.00 (br s, 1H), 2.76 (br s, 5H), 1.90 (s, 3H), 1.90-1.80 (m, 2H), 1.75-1.60 (m, 3H), 1.50-1.15 (m, 3H).

reactant | methyl 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylate | 1.25 mmol, 0.35 g | C1(CCCCC1)N1C(=C(C(=C(C1=O)C)O)C(=O)OC)C | C15H21NO4
reactant | HCl | 1 N | Cl | ClH
solvent | NaOH | 2 N, 5 mL | [OH-].[Na+]
product | 1-cyclohexyl-4-hydroxy-2,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.31 g, 94% | C1(CCCCC1)N1C(=C(C(=C(C1=O)C)O)C(=O)O)C | C14H19NO4
